US06017919
10% Palladium-carbon catalyst (water content 50%, 86 mg) was added to a solution of 2-(3-benzyloxyphenyl)ethylamine (434 mg, 1.91 mmol, 1.0 eq) in THF (10 ml), and the mixture was stirred at room temperature for 3 hours in a stream of hydrogen. The reaction ma ire was filtered through Celite, and the filtrate was concentrated under reduced pressure to give 2-(3-hydroxyphenyl)ethylamine (250 mg, 95.5%).

reactant | 2-(3-benzyloxyphenyl)ethylamine | 1.91 mmol, 434 mg, 1.0 eq | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN | C15H17NO
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 86 mg | [C].[Pd]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(3-hydroxyphenyl)ethylamine | 250 mg, 95.5% | OC=1C=C(C=CC1)CCN | C8H11NO
